US05635510
32.2 Synthesis of 4-cyano-4-(pyridin-3-yl)-piperidine hydrochloride
Prepare by the method of example 30.3 using 1-tert-butoxycarbonyl-4-cyano-4-(pyridin-3-yl)-piperidine (3 mmol) and HCl in dioxane (40 mmol, 4N). Concentrate the solvent in vacuo and dry under high vacuum to give the title compound.

reactant | 1-tert-butoxycarbonyl-4-cyano-4-(pyridin-3-yl)-piperidine | 3 mmol | C(C)(C)(C)OC(=O)N1CCC(CC1)(C=1C=NC=CC1)C#N | C16H21N3O2
reactant | HCl | Cl | ClH
reactant | dioxane | 40 mmol, 4N | O1CCOCC1 | C4H8O2
product | 4-cyano-4-(pyridin-3-yl)-piperidine hydrochloride | Cl.C(#N)C1(CCNCC1)C=1C=NC=CC1 | InChI=1S/C11H13N3.ClH/c12-9-11(3-6-13-7-4-11)10-2-1-5-14-8-10;/h1-2,5,8,13H,3-4,6-7H2;1H
